US07659268B2
To a mixture of 2-(3-bromophenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol (160 mg, 0.56 mmol), 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (150 mg, 0.60 mmol) and KOAc (150 mg, 1.5 mmol) in DMSO (2.5 mL) was added Pd(dppf)Cl2 (20 mg, 0.025 mmol). The mixture was heated at 80° C. overnight and then was partitioned between ethyl acetate and H2O. The aqueous layer was extracted with ethyl acetate (3×). The combined organic layers were washed with brine, dried over MgSO4, and concentrated under reduced pressure. The residue was purified by column chromatography (0-20% ethyl acetate-hexane) to yield 1,1,1,3,3,3-hexafluoro-2-(3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)propan-2-ol (54 mg, 28%). 1H NMR (400 MHz, DMSO-d6) δ 8.79 (s, 1H), 8.03 (s, 1H), 7.81 (t, J=6.7 Hz, 2H), 7.55 (t, J=7.7 Hz, 1H), 1.32 (s, 12H).

reactant | 2-(3-bromophenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol | 0.56 mmol, 160 mg | BrC=1C=C(C=CC1)C(C(F)(F)F)(C(F)(F)F)O | C9H5BrF6O
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 0.60 mmol, 150 mg | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | KOAc | 1.5 mmol, 150 mg | CC(=O)[O-].[K+]
solvent | DMSO | 2.5 mL | CS(=O)C | C2H6OS
catalyst | Pd(dppf)Cl2 | 0.025 mmol, 20 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 1,1,1,3,3,3-hexafluoro-2-(3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)propan-2-ol | 54 mg, 28% | FC(C(C(F)(F)F)(O)C1=CC(=CC=C1)B1OC(C(O1)(C)C)(C)C)(F)F | C15H17BF6O3
